US04654363
Step I: Preparation of Ethyl 3-(4,7-dichloro-5,6-dihydro-2-methylnapthalen-1-yl)propanoate
Activated zinc dust (0.55 g., 8.43 mmoles) was added to a solution of ethyl 3-(2-methyl-5,6,7,8-tetrahydro-4,7,7,8-tetrachloronaphthalen-1-yl)propanoate in dry diglyme (2.5 ml) and heated and stirred in an oil bath rapidly (10 minutes) to about 140° C. at which time the reaction proceeded vigorously and exothermically and refluxed. The reflux subsided in about 1 minute. Heating with an oil bath at 140°-150° C. was continued for 15 minutes Tlc (silica-CH2Cl2) showed reaction complete. The reaction was cooled to room temperature and partitioned between ether (150 ml) and 1N HCl (25 ml). Extract ether successively with 1N HCl, water four times, saturated solution of NaHCl3 ; dried, (MgSO4), filtered and the solvents evaporated to leave 1.99 g of title compound as a gum. Rf =0.61 (silica-CH2Cl2).

reactant | ethyl 3-(2-methyl-5,6,7,8-tetrahydro-4,7,7,8-tetrachloronaphthalen-1-yl)propanoate | CC1=C(C=2C(C(CCC2C(=C1)Cl)(Cl)Cl)Cl)CCC(=O)OCC | C16H18Cl4O2
solvent | diglyme | 2.5 ml | COCCOCCOC | C6H14O3
catalyst | zinc | 8.43 mmoles, 0.55 g | [Zn] | Zn
product | Ethyl 3-(4,7-dichloro-5,6-dihydro-2-methylnapthalen-1-yl)propanoate | 1.99 g | ClC1=CC(=C(C=2C=C(CCC12)Cl)CCC(=O)OCC)C | C16H18Cl2O2
